US06544985B2
7-Dimethylamino-4-[3-(2-hydroxymethyl-5-propyl-thiazol-4-yl)-phenyl]-8-trifluoromethyl-1,3-dihydro-benzo[b][1,4]diazepin-2-one
The title compound was prepared from (2-amino-5-dimethylamino-4-trifluoromethyl-phenyl)-carbamic acid tert-butyl ester (79 mg) (Example J6) and 3-oxo-3-{3-[-5-propyl-2-(tetrahydro-pyran-2-yloxymethyl)-thiazol-4-yl]-phenyl}-propionic acid tert-butyl ester (138 mg) (Example K41) according to the general procedure M. The obtained material was deprotected and cyclized by treatment with TFA in CH2Cl2 according to the general procedure N. Obtained as yellow solid (45 mg).

reactant | (2-amino-5-dimethylamino-4-trifluoromethyl-phenyl)-carbamic acid tert-butyl ester | 79 mg | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)N(C)C)C(F)(F)F)N)=O | C14H20F3N3O2
reactant | 3-oxo-3-{3-[-5-propyl-2-(tetrahydro-pyran-2-yloxymethyl)-thiazol-4-yl]-phenyl}-propionic acid tert-butyl ester | 138 mg | C(C)(C)(C)OC(CC(C1=CC(=CC=C1)C=1N=C(SC1CCC)COC1OCCCC1)=O)=O | C25H33NO5S
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 7-Dimethylamino-4-[3-(2-hydroxymethyl-5-propyl-thiazol-4-yl)-phenyl]-8-trifluoromethyl-1,3-dihydro-benzo[b][1,4]diazepin-2-one | CN(C1=CC2=C(NC(CC(=N2)C2=CC(=CC=C2)C=2N=C(SC2CCC)CO)=O)C=C1C(F)(F)F)C | C25H25F3N4O2S
